US05891895
A suspension of 2-(3-bromo-α-hydroxybenzyl)-3-methoxymethoxypyridine 1-oxide (4.58 g) and activated manganese dioxide (13.1 g) in ethyl acetate (150 mL) was stirred overnight at room temperature. The reaction mixture was subjected to filtration, and the filtrate was concentrated under reduced pressure. The concentrate was purified by means of a silica gel column (ethyl acetate--hexane) to afford 2-(3-bromobenzoyl)-3-methoxymethoxy pyridine 1-oxide (4.29 g). Physical properties and spectrum data of the product are shown below:

reactant | 2-(3-bromo-α-hydroxybenzyl)-3-methoxymethoxypyridine 1-oxide | 4.58 g | BrC=1C=C(C(O)C2=[N+](C=CC=C2OCOC)[O-])C=CC1 | C14H14BrNO4
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 13.1 g | [O-2].[O-2].[Mn+4]
product | 2-(3-bromobenzoyl)-3-methoxymethoxy pyridine 1-oxide | 4.29 g | BrC=1C=C(C(=O)C2=[N+](C=CC=C2OCOC)[O-])C=CC1 | C14H12BrNO4
